US04672066
4(4-Acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethyl butanoic acid was allowed to react with 3-pyridine butanamine according to procedure A and the product was purified by HPLC to give 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethyl-N-[4-(3-pyridinyl)butyl]-butanamide, the title compound, mp 80°-83° (from hexane) in 83% yield.

reactant | 4(4-Acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethyl butanoic acid | C(C)(=O)C1=C(C(=C(OCCC(C(=O)O)(C)C)C=C1)CCC)O | C17H24O5
reactant | 3-pyridine butanamine | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethyl-N-[4-(3-pyridinyl)butyl]-butanamide | C(C)(=O)C1=C(C(=C(OCCC(C(=O)NCCCCC=2C=NC=CC2)(C)C)C=C1)CCC)O | C26H36N2O4
